US04721523
0.64 g (0.02 mole) of methanol are added to 5.35 g (0.02 mole) of 97% pure N-neopentyl-N-2-propinyloxycarbonyloxamic acid chloride in 50 ml of toluene, and 2.02 g (0.02 mole) of triethylamine are then added dropwise, while cooling with ice. After the precipitate has been filtered off, the filtrate is washed with water, dried over sodium sulphate and freed from the solvent under a high vacuum. 5 g (98% of theory) of methyl N-neopentyl-N-2-propinyloxycarbonyl-oxamate of refractive index nD20 =1.4634 are obtained.

reactant | methanol | 0.02 mole, 0.64 g | CO | CH4O
reactant | N-neopentyl-N-2-propinyloxycarbonyloxamic acid chloride | 0.02 mole, 5.35 g | C(C(C)(C)C)N(C(C(=O)Cl)=O)C(=O)OCC#C | C11H14ClNO4
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl N-neopentyl-N-2-propinyloxycarbonyl-oxamate | 5 g, 98% | C(C(C)(C)C)N(C(C(=O)OC)=O)C(=O)OCC#C | C12H17NO5
